US09062015B2
FS1013 (1R,2S,3R)-3-[6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bi pyridinyl-4-ylamino]cyclohexane-1,2-diol
10 ml of 1.25 N HCl in methanol are added to 91 mg of ((3aS,4R,7aR)-2,2-dimethylhexahydrobenzo-1,3-dioxol-4-yl)-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl]amine, and the mixture is stirred at room temperature overnight. The reaction mixture is evaporated and dried under high vacuum. The product is in the form of the hydrochloride.

reactant | HCl | 1.25 N, 10 ml | Cl | ClH
reactant | ((3aS,4R,7aR)-2,2-dimethylhexahydrobenzo-1,3-dioxol-4-yl)-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl]amine | 91 mg | CC1(O[C@@H]2[C@H](O1)CCC[C@H]2NC2CCN(CC2)C2=NC(=CC=C2)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C)C | C33H47N3O2
solvent | methanol | CO | CH4O
product | (1R,2S,3R)-3-[6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bi pyridinyl-4-ylamino]cyclohexane-1,2-diol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCC(CC1)N[C@H]1[C@@H]([C@@H](CCC1)O)O)C | C30H43N3O2
